US06187905B1
74.79 ml (312 mmol) of 1,2-(di-tert-butyl)trimethylamine were added to a stirred mixture of 5 g (39 mmol) of (E)-2-heptenoic acid in 100 ml of toluene at 80° C. The mixture was stirred under reflux for 30 minutes and then cooled to room temperature. The mixture was washed in sequence with water and saturated sodium bicarbonate solution, then dried over anhydrous magnesium sulphate and filtered. The solvent was removed by evaporation. There were obtained 7.5 g of tert-butyl (E)-2-heptenoate as a yellow oil; MS: m/e 185.0 [M+H].

reactant | (E)-2-heptenoic acid | 39 mmol, 5 g | C(\C=C\CCCC)(=O)O | C7H12O2
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (E)-2-heptenoate | 7.5 g | C(\C=C\CCCC)(=O)OC(C)(C)C | C11H20O2
